US07943647B2
4′-Hydroxymethyl-biphenyl-2-carbonitrile
A 750 ml flask is charged with 54.4 g (0.2 mol) of 4′-bromomethyl-biphenyl-2-carbonitrile and 250 ml of toluene. To this suspension is added a solution of 30 g (0.3 mol) of potassium acetate in 15 ml of water. The heterogeneous mixture is heated up to an internal temperature of 90° C. to become a clear biphasic solution. After 12 hours at an internal temperature of 90° C. the conversion to the OAc derivative is complete. The biphasic mixture is cooled down to internal temperature of about 50° C. followed by addition of 150 ml NaOH (2N). The mixture is heated up to an internal temperature of ca. 70° C. (extern. temp. 80° C.). After 5 hours at this temperature the PTC saponification is complete (100% conversion, HPLC). Additional 150 ml toluene is added and the warm reaction solution (ca. 50° C.) is washed three times with 50 ml of hot water until the pH is around 7. The toluene phase is evaporated under reduced pressure and the resulting crystalline residue is dried at 50° C. over 24 hours in vacuum to give the white crystalline product with 98% purity (HPLC) and a water content of 0.23%.

reactant | 4′-bromomethyl-biphenyl-2-carbonitrile | 0.2 mol, 54.4 g | BrCC1=CC=C(C=C1)C=1C(=CC=CC1)C#N | C14H10BrN
reactant | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
reactant | potassium acetate | 0.3 mol, 30 g | C(C)(=O)[O-].[K+]
reactant | NaOH | 2N, 150 ml | [OH-].[Na+]
reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 15 ml | O | H2O
product | 4′-Hydroxymethyl-biphenyl-2-carbonitrile | OCC1=CC=C(C=C1)C=1C(=CC=CC1)C#N | C14H11NO
